US08377957B2
2-Chloro-3-nitro-N-(pyridin-3-ylmethyl)quinolin-4-amine (13.0 g, 41.0 mmol), 5% platinum on carbon (1.3 g), and acetonitrile (60 mL) were added to a hydrogenation vessel and placed under hydrogen pressure (50 psi, 3.4×105 Pa) overnight. The mixture was filtered through a layer of CELITE filter agent, and the filter cake was washed with acetonitrile and methanol. The filtrate was concentrated under reduced pressure to provide 10.25 g of 2-chloro-N4-(pyridin-3-ylmethyl)quinoline-3,4-diamine, which was used without purification.

reactant | 2-Chloro-3-nitro-N-(pyridin-3-ylmethyl)quinolin-4-amine | 41.0 mmol, 13.0 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCC=1C=NC=CC1 | C15H11ClN4O2
catalyst | platinum on carbon | 1.3 g | [Pt] | Pt
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 2-chloro-N4-(pyridin-3-ylmethyl)quinoline-3,4-diamine | 10.25 g | ClC1=NC2=CC=CC=C2C(=C1N)NCC=1C=NC=CC1 | C15H13ClN4
